US04159373
Substitution of an equivalent amount of 3-aminomethylphenylacetic acid hydrochloride for 4-aminomethylphenylacetic acid hydrochloride in the reaction with 2-t-butoxycarbonyloxyimino-2-phenylacetonitrile described in Example 54 gave 3-(N-t-butoxycarbonylaminomethyl)phenylacetic acid, m.p. 95°-96.5°.

reactant | 3-aminomethylphenylacetic acid hydrochloride | Cl.NCC=1C=C(C=CC1)CC(=O)O
reactant | 4-aminomethylphenylacetic acid hydrochloride | Cl.NCC1=CC=C(C=C1)CC(=O)O
reactant | 2-t-butoxycarbonyloxyimino-2-phenylacetonitrile | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
product | 3-(N-t-butoxycarbonylaminomethyl)phenylacetic acid | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1)CC(=O)O | C14H19NO4
